US07329680B2
2-(4′-Indol-1-yl-biphen-4-yl)thiazolidine-4-carboxylic acid
A solution of 4′-Indol-1-yl-biphenyl-4-carbaldehyde (500 mg, 1.68 mmol) and L-cysteine (150 mg, 1.26 mmol) in ethanol (5 mL) and dioxan (5 mL) was stirred at 50° C. for 16 hours, cooled to room temperature and concentrated in vacuo. Trituration with diethyl ether gave the title compound as a beige solid (302 mg, 45%): mp. 135-137° C. (dec). Rf 0.10 (20% methanol in dichloromethane). 1H NMR (DMSO-d6, 300 MHz) δ 7.82 (4H, m, Ar—H), 7.65 (6H, m, Ar—H), 7.52 (1H, d, J=8 Hz, Ar—H), 7.10-7.24 (2H, m, Ar—H), 6.74 (1H, s, Ar—H), 5.77 and 5.58 (both 0.5H, s, H-2, 1:1 diastereomers), 4.21 and 3.92 (both 0.5H, m, H-4, 1:1 diastereomers), 3.10-3.38 (2H, m, 2×H-5); ESI-LCMS e/z calcd for C24H20N2O2S: 400.500, found 401 (M+H)+.

reactant | 4′-Indol-1-yl-biphenyl-4-carbaldehyde | 1.68 mmol, 500 mg | N1(C=CC2=CC=CC=C12)C1=CC=C(C=C1)C1=CC=C(C=C1)C=O | C21H15NO
reactant | L-cysteine | 1.26 mmol, 150 mg | N[C@@H](CS)C(=O)O | C3H7NO2S
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dioxan | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(4′-Indol-1-yl-biphen-4-yl)thiazolidine-4-carboxylic acid | 302 mg, 45% | N1(C=CC2=CC=CC=C12)C1=CC=C(C2=CC=C(C=C2)C2SCC(N2)C(=O)O)C=C1 | C24H20N2O2S
